US04471116
A solution of 4-(3-methylaminopropoxy)phenol hydrochloride (4.7 g) and 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine (10.7 g) (as its dihydrochloride) in dimethylsulfoxide (125 ml) was stirred under nitrogen during the addition of sodium hydroxide (3.46 g) in water (5 ml). The reaction was then stirred at 55° for 4 hours and then was diluted with water (500 ml). The oil which separated was extracted into ethyl acetate and hydrogen chloride was bubbled into the solution previously dried over potassium carbonate to precipitate the crude product as its trihydrochloride salt (4.3 g). Crystallization of the salt from acetonitrile-methanol yielded 1.9 g of 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy]-N-methylpropanamine trihydrochloride, mp 223°-226°.

reactant | 4-(3-methylaminopropoxy)phenol hydrochloride | 4.7 g | Cl.CNCCCOC1=CC=C(C=C1)O
reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-(2-chloroethyl)piperazine | 10.7 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCCl | C21H25Cl2N3S
reactant | sodium hydroxide | 3.46 g | [OH-].[Na+]
solvent | dimethylsulfoxide | 125 ml | CS(=O)C | C2H6OS
solvent | water | 5 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy]-N-methylpropanamine trihydrochloride | 1.9 g | Cl.Cl.Cl.ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)OCCCNC | InChI=1S/C31H39ClN4O2S.3ClH/c1-33-14-4-22-37-26-9-11-27(12-10-26)38-23-21-35-19-17-34(18-20-35)15-5-16-36-28-6-2-3-7-30(28)39-31-13-8-25(32)24-29(31)36;;;/h2-3,6-13,24,33H,4-5,14-23H2,1H3;3*1H
